US08293923B2
Step 3: 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-N-cyclopentyl-2-(5-(2-methoxyphenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazole-5-carboxamide
A mixture of (1,1-Bis(diphenylphosphino)ferrocene)dichloropalladium(II), complexed with dichloromethane (1:1) (1.9 mg, 0.0000023 mol), 50 uL of 0.20 M 2-(5-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino)-1-(4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl)-1H-benzoimidazole-5-carboxylic acid cyclopentylamide (0.0000116 mol) in dioxane and 92 uL of 0.25 M 2-methoxyphenylboronic acid (3.54 mg, 0.0000233 mol) in dioxane and 29 uL 2.0 M sodium carbonate in water was heated at 120° C. for 4 hours. The reaction mixture was cooled, and 2 mL of H2O was added followed by extraction with 2 mL of methylene chloride 3 times. The combined organic phases were concentrated and purified by flash chromatography with 50% EtOAc/Hexanes to give the title compound.

reactant | dichloromethane | 0.0000023 mol, 1.9 mg | ClCCl | CH2Cl2
reactant | 2-(5-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino)-1-(4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl)-1H-benzoimidazole-5-carboxylic acid cyclopentylamide | 0.0000116 mol, 0.20 M, 50 uL | C1(CCCC1)NC(=O)C1=CC2=C(N(C(=N2)NC2=NN(C3=CC=C(C=C23)Br)COCC[Si](C)(C)C)C2CCC(CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C38H57BrN6O3Si2
reactant | 2-methoxyphenylboronic acid | 0.0000233 mol, 0.25 M, 92 uL, 3.54 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2.0 M, 29 uL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-N-cyclopentyl-2-(5-(2-methoxyphenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazole-5-carboxamide | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1C(=NC2=C1C=CC(=C2)C(=O)NC2CCCC2)NC2=NN(C1=CC=C(C=C21)C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C45H64N6O4Si2
